* PEX produced on Wed Sep  9 01:27:17 PM CEST 2026 using /techfiles_ldap/openpdk/tools/sak-pex.sh with m=2 and s=1
* NGSPICE file created from PFD_cell_2.ext - technology: ihp-sg13cmos5l

.subckt PFD_cell_2 gnd vp cRef UP DOWN cVco rst
X0 PFD_flip_flop_0.1 PFD_flip_flop_0.clk_n PFD_flip_flop_0.post_NOR vp sg13_lv_pmos ad=0.102p pd=1.28u as=0.102p ps=1.28u w=0.3u l=0.15u
X1 gnd a_2226_46# PFD_passgate_0.B gnd sg13_lv_nmos ad=76f pd=0.78u as=0.136p ps=1.48u w=0.4u l=0.5u
X2 gnd pre_up a_3420_929# gnd sg13_lv_nmos ad=0.1005p pd=1.34u as=55.5f ps=0.74u w=0.15u l=0.13u
X3 a_812_76# PFD_flip_flop_1.3 vp vp sg13_lv_pmos ad=57f pd=0.68u as=0.102p ps=1.28u w=0.3u l=0.15u
X4 UP inverter_x4_3.OUT vp vp sg13_lv_pmos ad=0.204p pd=1.88u as=0.204p ps=1.88u w=0.6u l=0.13u
X5 PFD_passgate_1.in_p rst gnd gnd sg13_lv_nmos ad=0.204p pd=1.88u as=0.204p ps=1.88u w=0.6u l=0.13u
X6 PFD_flip_flop_1.3 cRef PFD_flip_flop_1.2 gnd sg13_lv_nmos ad=0.102p pd=1.28u as=0.102p ps=1.28u w=0.3u l=0.15u
X7 PFD_flip_flop_1.NQ pre_down vp vp sg13_lv_pmos ad=0.408p pd=3.08u as=0.408p ps=3.08u w=1.2u l=0.13u
X8 a_n184_n846# PFD_flip_flop_0.2 vp vp sg13_lv_pmos ad=57f pd=0.68u as=0.102p ps=1.28u w=0.3u l=0.15u
X9 PFD_flip_flop_1.1 cRef vp vp sg13_lv_pmos ad=0.102p pd=1.28u as=0.102p ps=1.28u w=0.3u l=0.15u
X10 PFD_flip_flop_0.1 cVco vp vp sg13_lv_pmos ad=0.102p pd=1.28u as=0.102p ps=1.28u w=0.3u l=0.15u
X11 a_812_n846# PFD_flip_flop_0.3 vp vp sg13_lv_pmos ad=57f pd=0.68u as=0.102p ps=1.28u w=0.3u l=0.15u
X12 PFD_passgate_0.B PFD_passgate_1.in_p flip_flop_reset gnd sg13_lv_nmos ad=0.102p pd=1.28u as=0.102p ps=1.28u w=0.3u l=0.15u
X13 PFD_flip_flop_1.clk_n cRef vp vp sg13_lv_pmos ad=0.204p pd=1.88u as=0.204p ps=1.88u w=0.6u l=0.13u
X14 PFD_flip_flop_1.2 PFD_flip_flop_1.1 vp vp sg13_lv_pmos ad=0.408p pd=3.08u as=0.408p ps=3.08u w=1.2u l=0.13u
X15 PFD_flip_flop_1.1 PFD_flip_flop_1.clk_n PFD_flip_flop_1.post_NOR vp sg13_lv_pmos ad=0.102p pd=1.28u as=0.102p ps=1.28u w=0.3u l=0.15u
X16 vp PFD_passgate_1.in_p flip_flop_reset vp sg13_lv_pmos ad=0.102p pd=1.28u as=0.102p ps=1.28u w=0.3u l=0.15u
X17 gnd PFD_flip_flop_0.1 gnd gnd sg13_lv_nmos ad=4.25p pd=25.68u as=75.35102p ps=0.39129m w=12.5u l=5u
X18 pre_down flip_flop_reset gnd gnd sg13_lv_nmos ad=0.102p pd=1.28u as=57f ps=0.68u w=0.3u l=0.15u
X19 a_2226_46# PFD_buffor_0.in gnd gnd sg13_lv_nmos ad=0.136p pd=1.48u as=76f ps=0.78u w=0.4u l=0.5u
X20 PFD_flip_flop_1.post_NOR flip_flop_reset gnd gnd sg13_lv_nmos ad=0.102p pd=1.28u as=57f ps=0.68u w=0.3u l=0.15u
X21 PFD_flip_flop_0.NQ pre_up gnd gnd sg13_lv_nmos ad=0.408p pd=3.08u as=0.408p ps=3.08u w=1.2u l=0.13u
X22 DOWN inverter_x4_0.OUT gnd gnd sg13_lv_nmos ad=0.204p pd=1.88u as=0.204p ps=1.88u w=0.6u l=0.13u
X23 gnd PFD_flip_flop_1.1 gnd gnd sg13_lv_nmos ad=4.25p pd=25.68u as=0 ps=0 w=12.5u l=5u
X24 gnd PFD_flip_flop_1.2 gnd gnd sg13_lv_nmos ad=2.375p pd=12.88u as=0 ps=0 w=12.5u l=5u
X25 PFD_flip_flop_1.NQ pre_down gnd gnd sg13_lv_nmos ad=0.408p pd=3.08u as=0.408p ps=3.08u w=1.2u l=0.13u
X26 PFD_flip_flop_0.3 cVco PFD_flip_flop_0.NQ vp sg13_lv_pmos ad=0.102p pd=1.28u as=0.102p ps=1.28u w=0.3u l=0.15u
X27 PFD_flip_flop_1.3 cRef PFD_flip_flop_1.NQ vp sg13_lv_pmos ad=0.102p pd=1.28u as=0.102p ps=1.28u w=0.3u l=0.15u
X28 pre_up flip_flop_reset a_812_n846# vp sg13_lv_pmos ad=0.102p pd=1.28u as=57f ps=0.68u w=0.3u l=0.15u
X29 PFD_flip_flop_0.clk_n cVco gnd gnd sg13_lv_nmos ad=0.204p pd=1.88u as=0.204p ps=1.88u w=0.6u l=0.13u
X30 gnd PFD_flip_flop_0.2 PFD_flip_flop_0.post_NOR gnd sg13_lv_nmos ad=57f pd=0.68u as=0.102p ps=1.28u w=0.3u l=0.15u
X31 PFD_flip_flop_1.2 PFD_flip_flop_1.1 gnd gnd sg13_lv_nmos ad=0.408p pd=3.08u as=0.408p ps=3.08u w=1.2u l=0.13u
X32 PFD_passgate_1.in_p rst vp vp sg13_lv_pmos ad=0.204p pd=1.88u as=0.204p ps=1.88u w=0.6u l=0.13u
X33 inverter_x4_0.OUT pre_down vp vp sg13_lv_pmos ad=0.204p pd=1.88u as=0.204p ps=1.88u w=0.6u l=0.13u
X34 gnd PFD_flip_flop_1.3 pre_down gnd sg13_lv_nmos ad=57f pd=0.68u as=0.102p ps=1.28u w=0.3u l=0.15u
X35 gnd post_nand PFD_buffor_0.in gnd sg13_lv_nmos ad=0.204p pd=1.88u as=0.204p ps=1.88u w=0.6u l=0.13u
X36 PFD_flip_flop_1.3 PFD_flip_flop_1.clk_n PFD_flip_flop_1.2 vp sg13_lv_pmos ad=0.102p pd=1.28u as=0.102p ps=1.28u w=0.3u l=0.15u
X37 vp a_2226_46# PFD_passgate_0.B vp sg13_lv_pmos ad=76f pd=0.78u as=0.136p ps=1.48u w=0.4u l=0.5u
X38 PFD_flip_flop_0.clk_n cVco vp vp sg13_lv_pmos ad=0.204p pd=1.88u as=0.204p ps=1.88u w=0.6u l=0.13u
X39 PFD_flip_flop_0.post_NOR flip_flop_reset gnd gnd sg13_lv_nmos ad=0.102p pd=1.28u as=57f ps=0.68u w=0.3u l=0.15u
X40 gnd PFD_flip_flop_0.3 pre_up gnd sg13_lv_nmos ad=57f pd=0.68u as=0.102p ps=1.28u w=0.3u l=0.15u
X41 UP inverter_x4_3.OUT gnd gnd sg13_lv_nmos ad=0.204p pd=1.88u as=0.204p ps=1.88u w=0.6u l=0.13u
X42 PFD_flip_flop_1.post_NOR flip_flop_reset a_n184_76# vp sg13_lv_pmos ad=0.102p pd=1.28u as=57f ps=0.68u w=0.3u l=0.15u
X43 vp pre_up post_nand vp sg13_lv_pmos ad=0.1005p pd=1.34u as=55.5f ps=0.74u w=0.15u l=0.13u
X44 PFD_flip_flop_0.2 PFD_flip_flop_0.1 gnd gnd sg13_lv_nmos ad=0.408p pd=3.08u as=0.408p ps=3.08u w=1.2u l=0.13u
X45 gnd PFD_flip_flop_0.2 gnd gnd sg13_lv_nmos ad=2.375p pd=12.88u as=0 ps=0 w=12.5u l=5u
X46 gnd PFD_flip_flop_0.3 gnd gnd sg13_lv_nmos ad=2.375p pd=12.88u as=0 ps=0 w=12.5u l=5u
X47 PFD_flip_flop_1.clk_n cRef gnd gnd sg13_lv_nmos ad=0.204p pd=1.88u as=0.204p ps=1.88u w=0.6u l=0.13u
X48 a_n184_76# PFD_flip_flop_1.2 vp vp sg13_lv_pmos ad=57f pd=0.68u as=0.102p ps=1.28u w=0.3u l=0.15u
X49 pre_down flip_flop_reset a_812_76# vp sg13_lv_pmos ad=0.102p pd=1.28u as=57f ps=0.68u w=0.3u l=0.15u
X50 PFD_passgate_0.B rst flip_flop_reset vp sg13_lv_pmos ad=0.102p pd=1.28u as=0.102p ps=1.28u w=0.3u l=0.15u
X51 gnd rst DOWN gnd sg13_lv_nmos ad=0.153p pd=1.58u as=0.153p ps=1.58u w=0.45u l=0.15u
X52 PFD_flip_flop_0.post_NOR flip_flop_reset a_n184_n846# vp sg13_lv_pmos ad=0.102p pd=1.28u as=57f ps=0.68u w=0.3u l=0.15u
X53 PFD_flip_flop_0.3 PFD_flip_flop_0.clk_n PFD_flip_flop_0.2 vp sg13_lv_pmos ad=0.102p pd=1.28u as=0.102p ps=1.28u w=0.3u l=0.15u
X54 pre_up flip_flop_reset gnd gnd sg13_lv_nmos ad=0.102p pd=1.28u as=57f ps=0.68u w=0.3u l=0.15u
X55 a_3420_929# pre_down post_nand gnd sg13_lv_nmos ad=55.5f pd=0.74u as=0.1005p ps=1.34u w=0.15u l=0.13u
X56 inverter_x4_3.OUT pre_up gnd gnd sg13_lv_nmos ad=0.204p pd=1.88u as=0.204p ps=1.88u w=0.6u l=0.13u
X57 gnd PFD_flip_flop_1.3 gnd gnd sg13_lv_nmos ad=2.375p pd=12.88u as=0 ps=0 w=12.5u l=5u
X58 PFD_flip_flop_1.1 PFD_flip_flop_1.clk_n vp gnd sg13_lv_nmos ad=0.102p pd=1.28u as=0.102p ps=1.28u w=0.3u l=0.15u
X59 inverter_x4_0.OUT pre_down gnd gnd sg13_lv_nmos ad=0.204p pd=1.88u as=0.204p ps=1.88u w=0.6u l=0.13u
X60 PFD_flip_flop_1.1 cRef PFD_flip_flop_1.post_NOR gnd sg13_lv_nmos ad=0.102p pd=1.28u as=0.102p ps=1.28u w=0.3u l=0.15u
X61 vp post_nand PFD_buffor_0.in vp sg13_lv_pmos ad=0.204p pd=1.88u as=0.204p ps=1.88u w=0.6u l=0.13u
X62 UP rst gnd gnd sg13_lv_nmos ad=0.153p pd=1.58u as=0.153p ps=1.58u w=0.45u l=0.15u
X63 DOWN inverter_x4_0.OUT vp vp sg13_lv_pmos ad=0.204p pd=1.88u as=0.204p ps=1.88u w=0.6u l=0.13u
X64 a_2226_46# PFD_buffor_0.in vp vp sg13_lv_pmos ad=0.136p pd=1.48u as=76f ps=0.78u w=0.4u l=0.5u
X65 post_nand pre_down vp vp sg13_lv_pmos ad=55.5f pd=0.74u as=0.1005p ps=1.34u w=0.15u l=0.13u
X66 PFD_flip_flop_0.2 PFD_flip_flop_0.1 vp vp sg13_lv_pmos ad=0.408p pd=3.08u as=0.408p ps=3.08u w=1.2u l=0.13u
X67 PFD_flip_flop_0.NQ pre_up vp vp sg13_lv_pmos ad=0.408p pd=3.08u as=0.408p ps=3.08u w=1.2u l=0.13u
X68 PFD_flip_flop_0.3 cVco PFD_flip_flop_0.2 gnd sg13_lv_nmos ad=0.102p pd=1.28u as=0.102p ps=1.28u w=0.3u l=0.15u
X69 PFD_flip_flop_0.1 cVco PFD_flip_flop_0.post_NOR gnd sg13_lv_nmos ad=0.102p pd=1.28u as=0.102p ps=1.28u w=0.3u l=0.15u
X70 PFD_flip_flop_0.3 PFD_flip_flop_0.clk_n PFD_flip_flop_0.NQ gnd sg13_lv_nmos ad=0.102p pd=1.28u as=0.102p ps=1.28u w=0.3u l=0.15u
X71 PFD_flip_flop_1.3 PFD_flip_flop_1.clk_n PFD_flip_flop_1.NQ gnd sg13_lv_nmos ad=0.102p pd=1.28u as=0.102p ps=1.28u w=0.3u l=0.15u
X72 PFD_flip_flop_0.1 PFD_flip_flop_0.clk_n vp gnd sg13_lv_nmos ad=0.102p pd=1.28u as=0.102p ps=1.28u w=0.3u l=0.15u
X73 gnd PFD_flip_flop_1.2 PFD_flip_flop_1.post_NOR gnd sg13_lv_nmos ad=57f pd=0.68u as=0.102p ps=1.28u w=0.3u l=0.15u
X74 inverter_x4_3.OUT pre_up vp vp sg13_lv_pmos ad=0.204p pd=1.88u as=0.204p ps=1.88u w=0.6u l=0.13u
X75 vp rst flip_flop_reset gnd sg13_lv_nmos ad=0.102p pd=1.28u as=0.102p ps=1.28u w=0.3u l=0.15u
C0 PFD_passgate_0.B PFD_buffor_0.in 0.02339f
C1 PFD_flip_flop_0.3 PFD_flip_flop_0.1 0.01203f
C2 PFD_flip_flop_0.3 PFD_flip_flop_0.2 0.7703f
C3 post_nand pre_up 0.09477f
C4 DOWN vp 0.20446f
C5 PFD_flip_flop_0.3 PFD_flip_flop_0.clk_n 0.22338f
C6 PFD_flip_flop_0.NQ vp 0.33333f
C7 PFD_flip_flop_1.1 flip_flop_reset 0.03335f
C8 vp flip_flop_reset 2.51875f
C9 post_nand PFD_buffor_0.in 0.16014f
C10 PFD_flip_flop_0.NQ PFD_flip_flop_0.clk_n 0.05672f
C11 a_812_n846# vp 0.0392f
C12 PFD_flip_flop_0.1 flip_flop_reset 0.03335f
C13 flip_flop_reset PFD_flip_flop_0.2 0.55101f
C14 PFD_flip_flop_0.clk_n flip_flop_reset 0.13811f
C15 inverter_x4_0.OUT vp 0.42137f
C16 vp a_n184_76# 0.03918f
C17 PFD_flip_flop_1.1 PFD_flip_flop_1.clk_n 0.33383f
C18 vp PFD_flip_flop_1.clk_n 1.33368f
C19 PFD_flip_flop_1.NQ flip_flop_reset 0.14459f
C20 a_2226_46# pre_down 0.04283f
C21 flip_flop_reset a_n184_n846# 0.01022f
C22 cVco PFD_passgate_1.in_p 0.07604f
C23 PFD_flip_flop_1.clk_n PFD_flip_flop_0.clk_n 0.01861f
C24 PFD_flip_flop_1.2 flip_flop_reset 0.55101f
C25 PFD_flip_flop_1.post_NOR flip_flop_reset 0.34484f
C26 PFD_flip_flop_1.1 vp 0.66984f
C27 rst PFD_passgate_1.in_p 0.4133f
C28 PFD_flip_flop_0.1 vp 0.67335f
C29 vp PFD_flip_flop_0.2 0.47356f
C30 PFD_flip_flop_1.post_NOR a_n184_76# 0.03017f
C31 PFD_flip_flop_1.NQ PFD_flip_flop_1.clk_n 0.05672f
C32 vp PFD_flip_flop_0.clk_n 1.33932f
C33 PFD_flip_flop_0.1 PFD_flip_flop_0.2 1.04451f
C34 PFD_flip_flop_0.1 PFD_flip_flop_0.clk_n 0.33383f
C35 PFD_flip_flop_1.post_NOR PFD_flip_flop_1.clk_n 0.08815f
C36 PFD_flip_flop_1.2 PFD_flip_flop_1.clk_n 0.20733f
C37 PFD_flip_flop_0.clk_n PFD_flip_flop_0.2 0.20731f
C38 PFD_passgate_0.B a_2226_46# 0.31914f
C39 cVco pre_up 0.03761f
C40 PFD_flip_flop_1.NQ vp 0.32559f
C41 vp a_n184_n846# 0.0392f
C42 flip_flop_reset pre_down 0.29576f
C43 PFD_flip_flop_1.post_NOR PFD_flip_flop_1.1 0.5285f
C44 PFD_flip_flop_1.2 PFD_flip_flop_1.1 1.0445f
C45 rst pre_up 0.37132f
C46 PFD_flip_flop_1.post_NOR vp 0.20324f
C47 PFD_flip_flop_1.2 vp 0.4718f
C48 a_2226_46# post_nand 0.03532f
C49 inverter_x4_0.OUT pre_down 0.21799f
C50 rst inverter_x4_3.OUT 0.07189f
C51 PFD_passgate_1.in_p PFD_buffor_0.in 0.07654f
C52 vp UP 0.16607f
C53 PFD_flip_flop_1.clk_n pre_down 0.28511f
C54 cVco cRef 1.60147f
C55 PFD_passgate_0.B flip_flop_reset 0.39535f
C56 rst cRef 0.06716f
C57 cRef PFD_flip_flop_1.3 0.06675f
C58 PFD_flip_flop_1.post_NOR PFD_flip_flop_1.2 0.60407f
C59 vp pre_down 0.95726f
C60 inverter_x4_3.OUT pre_up 0.38308f
C61 cVco PFD_flip_flop_0.post_NOR 0.02789f
C62 PFD_flip_flop_1.NQ pre_down 0.38588f
C63 PFD_passgate_0.B vp 0.11093f
C64 PFD_flip_flop_1.post_NOR pre_down 0.01691f
C65 PFD_flip_flop_1.2 pre_down 0.06069f
C66 a_812_76# flip_flop_reset 0.01021f
C67 a_2226_46# PFD_passgate_1.in_p 0.09685f
C68 vp post_nand 0.54342f
C69 a_3420_929# post_nand 0.02445f
C70 cVco PFD_flip_flop_0.3 0.0668f
C71 PFD_flip_flop_0.post_NOR pre_up 0.01691f
C72 cVco PFD_flip_flop_0.NQ 0.06354f
C73 a_812_76# vp 0.03918f
C74 cVco flip_flop_reset 0.46288f
C75 rst DOWN 0.07553f
C76 rst PFD_flip_flop_0.NQ 0.02073f
C77 rst flip_flop_reset 0.23166f
C78 PFD_passgate_1.in_p flip_flop_reset 0.13267f
C79 flip_flop_reset PFD_flip_flop_1.3 0.5641f
C80 a_2226_46# PFD_buffor_0.in 0.5679f
C81 rst inverter_x4_0.OUT 0.07109f
C82 inverter_x4_0.OUT PFD_passgate_1.in_p 0.0561f
C83 PFD_flip_flop_0.3 pre_up 1.01556f
C84 PFD_passgate_1.in_p PFD_flip_flop_1.clk_n 0.04745f
C85 PFD_flip_flop_1.clk_n PFD_flip_flop_1.3 0.22367f
C86 cVco vp 2.05823f
C87 pre_down post_nand 0.19685f
C88 DOWN pre_up 0.17555f
C89 PFD_flip_flop_0.NQ pre_up 0.35881f
C90 flip_flop_reset pre_up 0.2957f
C91 cVco PFD_flip_flop_0.1 0.49954f
C92 cVco PFD_flip_flop_0.2 0.4739f
C93 cVco PFD_flip_flop_0.clk_n 1.97139f
C94 rst vp 1.28279f
C95 PFD_flip_flop_1.1 PFD_flip_flop_1.3 0.01203f
C96 PFD_passgate_1.in_p vp 0.8563f
C97 vp PFD_flip_flop_1.3 0.22827f
C98 a_812_n846# pre_up 0.03017f
C99 DOWN inverter_x4_3.OUT 0.02611f
C100 inverter_x4_0.OUT pre_up 0.05674f
C101 rst PFD_flip_flop_0.clk_n 0.05478f
C102 a_812_76# pre_down 0.03017f
C103 PFD_flip_flop_1.NQ PFD_passgate_1.in_p 0.01353f
C104 PFD_flip_flop_1.NQ PFD_flip_flop_1.3 0.47876f
C105 cRef flip_flop_reset 0.59577f
C106 vp pre_up 1.13047f
C107 PFD_flip_flop_1.2 PFD_flip_flop_1.3 0.7703f
C108 PFD_flip_flop_0.2 pre_up 0.06073f
C109 PFD_flip_flop_0.clk_n pre_up 0.24336f
C110 vp PFD_buffor_0.in 0.37856f
C111 vp inverter_x4_3.OUT 0.40635f
C112 cRef PFD_flip_flop_1.clk_n 1.97143f
C113 rst UP 0.07849f
C114 flip_flop_reset PFD_flip_flop_0.post_NOR 0.34484f
C115 PFD_flip_flop_1.1 cRef 0.49954f
C116 cRef vp 2.03391f
C117 rst pre_down 0.09422f
C118 PFD_passgate_1.in_p pre_down 1.22886f
C119 pre_down PFD_flip_flop_1.3 0.93955f
C120 a_2226_46# flip_flop_reset 0.01969f
C121 PFD_flip_flop_1.NQ cRef 0.0592f
C122 UP inverter_x4_3.OUT 0.18564f
C123 rst PFD_passgate_0.B 0.03246f
C124 vp PFD_flip_flop_0.post_NOR 0.20428f
C125 PFD_passgate_0.B PFD_passgate_1.in_p 0.06494f
C126 PFD_flip_flop_1.post_NOR cRef 0.02789f
C127 PFD_flip_flop_1.2 cRef 0.47381f
C128 PFD_passgate_0.B PFD_flip_flop_1.3 0.01152f
C129 PFD_flip_flop_0.NQ PFD_flip_flop_0.3 0.47978f
C130 PFD_flip_flop_0.3 flip_flop_reset 0.57484f
C131 pre_down pre_up 0.38515f
C132 PFD_flip_flop_0.1 PFD_flip_flop_0.post_NOR 0.5285f
C133 PFD_flip_flop_0.2 PFD_flip_flop_0.post_NOR 0.60407f
C134 PFD_flip_flop_0.clk_n PFD_flip_flop_0.post_NOR 0.08815f
C135 a_2226_46# vp 0.31205f
C136 pre_down PFD_buffor_0.in 0.26555f
C137 PFD_flip_flop_0.NQ flip_flop_reset 0.10737f
C138 a_812_n846# flip_flop_reset 0.01021f
C139 DOWN inverter_x4_0.OUT 0.20449f
C140 a_n184_n846# PFD_flip_flop_0.post_NOR 0.03017f
C141 flip_flop_reset a_n184_76# 0.01022f
C142 cRef pre_down 0.03822f
C143 PFD_flip_flop_1.clk_n flip_flop_reset 0.13963f
C144 PFD_flip_flop_0.3 vp 0.23304f
C145 UP gnd 0.91242f
C146 DOWN gnd 0.56832f
C147 vp gnd 22.03422f
C148 PFD_flip_flop_0.NQ gnd 0.30762f
C149 a_812_n846# gnd 4.51021f
C150 PFD_flip_flop_0.post_NOR gnd 1.10792f
C151 a_n184_n846# gnd 4.42738f
C152 a_812_76# gnd 4.51785f
C153 a_3420_929# gnd 1.49427f
C154 PFD_passgate_0.B gnd 1.23764f
C155 a_2226_46# gnd 0.24681f
C156 PFD_flip_flop_1.NQ gnd 2.01579f
C157 PFD_flip_flop_1.post_NOR gnd 1.12573f
.ends

